US07781478B2
Crude 6-bromomethyl-1-ethyl-6-methoxy-2-(4-nitro-phenyl)-1H-indole-3-carbonitrile (0.3 mmol) is heated with morpholine (150 μL, 1.75 mmol) and DCE (1.0 mL) at 90° C. overnight. The reaction mixture is then partitioned between H2O and EtOAc. The organic layer is dried and concentrated. Purification by silica gel chromatography (50-100%, EtOAc/CH2Cl2), followed by trituration with 1/1 hexane/acetone yields 1-ethyl-6-methoxy-5-morpholin-4-ylmethyl-2-(4-nitrophenyl)-1H-indole-3-carbonitrile (57 mg, 44% overall yield) as a yellow solid.

reactant | 6-bromomethyl-1-ethyl-6-methoxy-2-(4-nitro-phenyl)-1H-indole-3-carbonitrile | 0.3 mmol | BrCC1(C=CC2=C(C(N(C2=C1)CC)C1=CC=C(C=C1)[N+](=O)[O-])C#N)OC | C19H18BrN3O3
reactant | morpholine | 1.75 mmol, 150 μL | N1CCOCC1 | C4H9NO
reactant | DCE | 1.0 mL | ClCCCl | C2H4Cl2
product | 1-ethyl-6-methoxy-5-morpholin-4-ylmethyl-2-(4-nitrophenyl)-1H-indole-3-carbonitrile | 57 mg, 44% | C(C)N1C(=C(C2=CC(=C(C=C12)OC)CN1CCOCC1)C#N)C1=CC=C(C=C1)[N+](=O)[O-] | C23H24N4O4
